US05206375
A mixture of 12.1 parts of N,N-dimethyl-N'-(4-chloro-3-cyano-5-formylthien-2-yl)-formamidine, 8.2 parts of sodium phenylsulfinate and 70 parts of methylglycol is heated at the boil for 1 hour. The precipitated product is then filtered off under suction when the mixture is cold and is washed with methylglycol and then with water and dried. 9.7 parts of N,N-dimethyl-N'-(3-cyano-5-formyl-4-phenylsulfonylthien-2-yl)-formamidine are obtained.

reactant | N,N-dimethyl-N'-(4-chloro-3-cyano-5-formylthien-2-yl)-formamidine | CN(C=NC=1SC(=C(C1C#N)Cl)C=O)C | C9H8ClN3OS
reactant | sodium phenylsulfinate | C1(=CC=CC=C1)S(=O)[O-].[Na+]
product | N,N-dimethyl-N'-(3-cyano-5-formyl-4-phenylsulfonylthien-2-yl)-formamidine | CN(C=NC=1SC(=C(C1C#N)S(=O)(=O)C1=CC=CC=C1)C=O)C | C15H13N3O3S2
